US04381393
To a cold solution (0° C.) of 6.0 g of 5-(bromomethyl)-1,3-diacetyl-1,3-dihydro-4-(4-methoxybenzoyl)-2H-imidazol-2-one in 50 ml of dry tetrahydrofuran is added gaseous trimethylamine over a period of 15 minutes. The mixture is stirred at 0° C. for 15 minutes and the solvent is then evaporated under reduced pressure. To the residue is added 30 ml of 30% hydrobromic acid in acetic acid and the solution is allowed to stand at 25° C. for 1 hour. The solvent is then evaporated under reduced pressure and the residue is first crystallized from water and then recrystallized from ethanol to give 2,3-dihydro-5-(4-methoxybenzoyl)-N,N,N-trimethyl-2-oxo-1H-imidazole-4-methanaminium bromide sesquihydrate melting at about 148°-150° C. with decomposition.

reactant | 5-(bromomethyl)-1,3-diacetyl-1,3-dihydro-4-(4-methoxybenzoyl)-2H-imidazol-2-one | 6.0 g | BrCC1=C(N(C(N1C(C)=O)=O)C(C)=O)C(C1=CC=C(C=C1)OC)=O | C16H15BrN2O5
reactant | trimethylamine | CN(C)C | C3H9N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2,3-dihydro-5-(4-methoxybenzoyl)-N,N,N-trimethyl-2-oxo-1H-imidazole-4-methanaminium bromide sesquihydrate | O.[Br-].COC1=CC=C(C(=O)C2=C(NC(N2)=O)C[N+](C)(C)C)C=C1.O.O.COC1=CC=C(C(=O)C2=C(NC(N2)=O)C[N+](C)(C)C)C=C1.[Br-] | InChI=1S/2C15H19N3O3.2BrH.3H2O/c2*1-18(2,3)9-12-13(17-15(20)16-12)14(19)10-5-7-11(21-4)8-6-10;;;;;/h2*5-8H,9H2,1-4H3,(H-,16,17,19,20);2*1H;3*1H2
